US07723349B2
To a solution of (2R)-indoline-2-carboxylic acid (1 g, 5.64 mmol) and HCl salt of amino-acetic acid methyl ester (710 mg, 5.64 mmol) and BOP (2.75 g, 1.1 eq) in 15 mL DMF was added 2.95 mL hunig base. The mixture was stirred overnight. The mixture was diluted in sat. NaHCO3, extracted with EtOAc three time, and washed with sat. NaHCO3 and brine. The organic solution was dried over Na2SO4 and concentrated to give the desired methyl {[(2R)-2,3-dihydro-1H-indol-2-ylcarbonyl]amino}acetate. The material was used directly in the next step without further purification.

reactant | (2R)-indoline-2-carboxylic acid | 5.64 mmol, 1 g | N1[C@H](CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | HCl | Cl | ClH
reactant | amino-acetic acid methyl ester | 5.64 mmol, 710 mg | COC(CN)=O | C3H7NO2
reactant | BOP | 2.75 g, 1.1 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hunig base | 2.95 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | methyl {[(2R)-2,3-dihydro-1H-indol-2-ylcarbonyl]amino}acetate | N1[C@H](CC2=CC=CC=C12)C(=O)NCC(=O)OC | C12H14N2O3
